US04797401
(B) 1-(4-Aminophenyl)-4-(4-aminophenethyl)piperazine
1-(4-Nitrophenyl)-4-(4-nitrophenethyl)piperazine (3.35 g) in methylated spirit (400 ml) was hydrogenated at 45° and 60 psi over 10% Pd/C (about 300 mg) for 3 hours. The catalyst was then removed by filtration and the filtrate evaporated to dryness, giving an off-white residual solid which was crystallized from ethyl acetate (charcoal); yield of the title compound 2.1 g, m.p. 156°-8°.

reactant | 1-(4-Nitrophenyl)-4-(4-nitrophenethyl)piperazine | 3.35 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C18H20N4O4
catalyst | Pd/C | about 300 mg | [Pd] | Pd
product | 1-(4-Aminophenyl)-4-(4-aminophenethyl)piperazine | NC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=C(C=C1)N | C18H24N4
